US09340538B2
Step A: 2-((4-benzylmorpholin-3-yl)methyl)propane-1,3-diol
LiAlH4 (0.35 g, 9.32 mmol) in a dried flask was cooled to 0° C., and then anhydrous THF (15 mL) was added. The mixture was stirred thoroughly and a solution of diethyl 2-((4-benzylmorpholin-3-yl)methyl)malonate (0.93 g, 2.66 mmol) in anhydrous THF (5 mL) was added, then the mixture was stirred at 70° C. for 6 hours and cooled to 30° C. To the reaction mixture were added water (0.5 mL), sodium hydroxide aqueous solution (10%, 0.5 mL) and water (3 mL) in turn, then the mixture was stirred at 25° C. for 10 minutes and filtered. The filtrate was concentrated in vacuo and the residue was purified by a silica gel column chromatography (PETROLEUM ETHER/EtOAc (V/V)=3/1) to give the title compound as colorless oil (0.38 g, 54%). The compound was characterized by the following spectroscopic data:

reactant | LiAlH4 | 9.32 mmol, 0.35 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | diethyl 2-((4-benzylmorpholin-3-yl)methyl)malonate | 2.66 mmol, 0.93 g | C(C1=CC=CC=C1)N1C(COCC1)CC(C(=O)OCC)C(=O)OCC | C19H27NO5
reactant | water | 0.5 mL | O | H2O
reactant | sodium hydroxide | 0.5 mL | [OH-].[Na+]
reactant | water | 3 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-((4-benzylmorpholin-3-yl)methyl)propane-1,3-diol | 0.38 g, 54% | C(C1=CC=CC=C1)N1C(COCC1)CC(CO)CO | C15H23NO3
